2161-10-02 07:34:00 Physician Resident Progress Note
Chief Complaint: Patient with episode of narrow complex tachycardia at
   3:30 am
   -- Given IV Metoprolol 5mg IV x 2 with resolution
   Nausea, given Zofran. Did not tolerate Kayexalate
   Renal team ready to dialize today
   24 Hour Events:
   Allergies:
   Codeine
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Lightheadedness
   Ciprofloxacin
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-2**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 73 (73 - 155) bpm
   BP: 136/99(108) {108/76(86) - 144/109(113)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                     60 mL
   Urine:
   NG:
   60 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   474 K/uL
   8.0 g/dL
   131 mg/dL
   12.1 mg/dL
   26 mEq/L
   6.2 mEq/L
   65 mg/dL
   93 mEq/L
   133 mEq/L
   25.4 %
   7.1 K/uL
        [image002.jpg]
                             [**2161-10-2**]  02:24 AM
   WBC
   7.1
   Hct
   25.4
   Plt
   474
   Cr
   12.1
   Glucose
   131
   Other labs: PT / PTT / INR:18.7/31.4/1.7, Differential-Neuts:76.0 %,
   Lymph:15.6 %, Mono:6.4 %, Eos:1.5 %, Ca++:9.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
   43 yo M with PMHx sig. ESRD s/p failed transplant and subsequent
   nephrectomy in [**8-7**] who p/w abdominal pain, found to have pericardial
   effusion with tamponade physiology on bedside ECHO.
   .
   # Pericardial effusion: Stable overnight, without clinical signs of
   tamponade; no hypotension, pulsus paradoxus or decompensated failure.
   DDx includes uremia, malignant effusion, infectious/tuberculous
   effusion.
   -- Follow pulsus
   -- Plan for cardiac cath in AM per Cardiology
   -- Hold ACE-I
   -- Continue beta blocker per home regimen
   .
   # Abdominal pain: CT scan did not show an infectious process. Pain
   likely referred from pericardial distention
   -- Serial abdominal exams
   .
   # Ascites: Likely secondary to pericardial effusion leading to right
   sided congestion
   -- Continue to monitor
   .
   # Infiltrated IV: Exam is benign. Plastics has evaluated.
   - elevated arm, warm compressess
   - Plastics following, appreciate recs.
   .
   # Systolic CHF: As above, will hold ace inhibitor for now
   -- Monitor volume status, to be controlled by dialysis
   .
   # ESRD /  Hyperkalemia: Unable to give Kayexalate given nausea. Patient
   will need electrolyte disorder corrected
   - HD today
   - renally dose meds
   .
   #. SVT: Resolved after IV metoprolol, likely in setting of uremia and
   electrolyte imbalance
   -- Continue beta blocker
   .
   # Hematuria: This has been ongoing since nephrectomy. Followed by Dr.
   [**Last Name (STitle) 337**] in Urology.
   - check U/A, urine culture
   - f/u as outpatient.
   .
   # HTN: Given concern for hemodynamic decompensation, will hold
   antihypertensives with exception of short acting metoprolol
   .
   # Anemia: Previously noted to be iron deficient. Also likely from
   ESRD.
   - cont. iron
   .
   # Depression/Insomnia:
   - cont. home imipramine, citalopram, and clonazepam
   .
   # Hepatitis C:   check LFTs
   .
   FEN: no IVFs, electrolyte mgmt per HD, renal diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-10-2**] 12:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: